US07622492B2
Following the procedure of W. W. Shumway et al. J. Org. Chem. 2001, 66, 5832-5839, L-(−)-camphor (15 g, 98.5 mmol) was dissolved in toluene (62 mL), cooled to −78 degrees, and lithium diisopropylamide (1.8 M solution in heptane/tetrahydrofuran/ethylbenzene; 98.5 mL, 197 mmol, 2 equiv.) was added via an addition funnel over 15 min. The resulting solution was stirred at −78 degrees for 30 min, warmed to room temperature, and carefully poured over an excess of pulverized dry ice (300 g). Toluene (30 mL) was added and the solution was allowed to warm to room temperature. Diethyl ether (100 mL) was added and the solution was extracted with water (3×150 mL). The organic layer was discarded. The aqueous layer was acidified with 2M HCl to pH 1, salted with solid sodium chloride, and extracted with ether (3×150 mL). The combined organic extracts were dried (sodium sulfate), filtered, and evaporated to give (1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carboxylic acid (16.0 g, 83%) as a white solid.

reactant | L-(−)-camphor | 98.5 mmol, 15 g | CC1(C2CCC1(C(=O)C2)C)C | C10H16O
reactant | lithium diisopropylamide | 197 mmol, 1.8 M, 98.5 mL, 2 equiv. | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | 300 g | C(=O)=O | CO2
reactant | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | toluene | 62 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carboxylic acid | 16.0 g, 83% | C[C@]12C(C([C@H](CC1)C2(C)C)C(=O)O)=O | C11H16O3
